US06452044B2
Preparation of dimethyl 4-[2-(acetylthio)ethyl]-1,3-benzenedicarboxylate
To a degassed solution of dimethyl 4-ethenyl-1,3-benzenedicarboxylate (415 mg, 1.88 mmol) in benzene (6 mL) were added AIBN (33 mg, 0.21 mmol) and thioacetic acid (0.27 mL, 3.78 mmol), and the mixture was refluxed for 5 hours. The reaction mixture was diluted with aqueous NaHCO3 solution (15 mL) and extracted with EtOAc (15 mL). The organic layer was dried over MgSO4 and concentrated. The residual material was purified by silica gel chromatography (hexanes/EtOAc=10:1) to give 0.150 g of colorless oil (27% yield).

reactant | dimethyl 4-ethenyl-1,3-benzenedicarboxylate | 1.88 mmol, 415 mg | C(=C)C1=C(C=C(C=C1)C(=O)OC)C(=O)OC | C12H12O4
reactant | AIBN | 0.21 mmol, 33 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | thioacetic acid | 3.78 mmol, 0.27 mL | C(C)(=S)O | C2H4OS
solvent | benzene | 6 mL | C1=CC=CC=C1 | C6H6
solvent | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
product | dimethyl 4-[2-(acetylthio)ethyl]-1,3-benzenedicarboxylate | 0.150 g, 27% yield | C(C)(=O)SCCC1=C(C=C(C=C1)C(=O)OC)C(=O)OC | C14H16O5S
